US07414136B2
Preparation of 2-chloro-5-fluoronicotinic acid (Second Example)
Into a 200 mL round bottomed flask, 2,6-dichloro-5-fluoronicotinic acid (1 g), methanol (10 mL), triethylamine (0.96 g) and 5% Pd/calcium carbonate (one poisoned by lead) (107 mg) were charged under cooling with ice and stirred at room temperature for one hour in a hydrogen atmosphere. The catalyst was filtered off, and the filtrate was concentrated to obtain a crude product (1.3 g). The concentrated filtrate was analyzed by HPLC and found to be a mixture comprising 26% of the title compound, 57% of 2,6-dichloro-5-fluoronicotinic acid and 17% of 5-fluoronicotinic acid.

reactant | 2,6-dichloro-5-fluoronicotinic acid | ClC1=C(C(=O)O)C=C(C(=N1)Cl)F | C6H2Cl2FNO2
reactant | 5-fluoronicotinic acid | FC=1C=NC=C(C(=O)O)C1 | C6H4FNO2
product | 2-chloro-5-fluoronicotinic acid | 26% | ClC1=C(C(=O)O)C=C(C=N1)F | C6H3ClFNO2
